US04782147
To a solution of 0.380 g of (3S,4S)-4-acetoxy-3-[2-(2-chloroacetamidothiazol-4-yl)-2-methoxyiminoacetamido]-2-oxoazetidine in 1 ml of DMF is added a solution of 0.079 g of sodium azide in 1 ml of water and the mixture is stirred at room temperature for 15 hours. After addition of ethyl acetate and saturated aqueous sodium chloride solution, the organic layer is separated and washed with aqueous sodium chloride, dried over magnesium sulfate, and concentrated under reduced pressure. Purifying the residue on a silica gel column (ethyl acetate:CHCl3 :CH3OH=4:4:1) yields 0.201 g of (3S)-4-azido-3-[2-(2-chloroacetamidothiazol-4-yl)-2-methoxyimino-acetamido]-2-oxoazetidine(syn-isomer, cis-trans mixture).

reactant | (3S,4S)-4-acetoxy-3-[2-(2-chloroacetamidothiazol-4-yl)-2-methoxyiminoacetamido]-2-oxoazetidine | 0.380 g | C(C)(=O)O[C@H]1[C@@H](C(N1)=O)NC(C(=NOC)C=1N=C(SC1)NC(CCl)=O)=O | C13H14ClN5O6S
reactant | sodium azide | 0.079 g | [N-]=[N+]=[N-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium chloride | [Cl-].[Na+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | 1 ml | O | H2O
product | (3S)-4-azido-3-[2-(2-chloroacetamidothiazol-4-yl)-2-methoxyimino-acetamido]-2-oxoazetidine | 0.201 g | N(=[N+]=[N-])C1[C@@H](C(N1)=O)NC(C(=NOC)C=1N=C(SC1)NC(CCl)=O)=O | C11H11ClN8O4S
